US04788199
A solution of 4-[(2-phenyl-4-quinolyl)oxy]butanol (2.20 g) in glacial aceic acid (10 cc) is added slowly to a solution, cooled to 5° C., of chromic anhydride (2.25 g) in 90% strength acetic acid (5 cc). The temperature is allowed to rise to approximately 20° C., and the mixture is then stirred for one hour at this temperature. Ethanol (50 cc) is then added, the solvents are evaporated off under reduced pressure, the residue is taken up with water (100 cc) and the insoluble material is drained and washed several times with water. This insoluble material is taken up with normal sodium hydroxide solution (15 cc) and heated under reflux for two hours. The insoluble material is removed by filtration and the filtrate acidified by adding glacial acetic acid. The precipitate obtained is drained. 4-[(2-Phenyl-4-quinolyl)oxy]butanoic acid (0.740 g), m.p. 264° C., is obtained.

reactant | 4-[(2-phenyl-4-quinolyl)oxy]butanol | 2.20 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)OCCCCO | C19H19NO2
reactant | acetic acid | 5 cc | C(C)(=O)O | C2H4O2
solvent | Ethanol | 50 cc | C(C)O | C2H6O
product | 4-[(2-Phenyl-4-quinolyl)oxy]butanoic acid | 0.740 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)OCCCC(=O)O | C19H17NO3
